US08003662B2
Step F: Preparation of 6-(3-fluoro-4-hydroxyphenyl)-1-phenyl-2,3-dihydroimidazo[1,2-a]pyrimidin-5(1H)-one:
A solution of 6-(4-(benzyloxy)-3-fluorophenyl)-1-phenyl-2,3-dihydroimidazo[1,2-a]pyrimidin-5(1H)-one (0.084 g, 0.20 mmol) in TFA (2 mL) was stirred at 40° C. for 3 hours. The reaction was concentrated to dryness and then dried under vacuum to yield a crude residue that was purified by flash column chromatography, eluting with 25:1 CH2Cl2/MeOH. The product was obtained (80 mg; 94%) as a white solid as a TFA salt. 1H-NMR (400 MHz, DMSO-d6) δ 9.89 (br s, 1H), 7.98 (s, 1H), 7.82 (m, 2H), 7.52 (dd, 1H), 7.42 (m, 2H), 7.32 (m, 1H), 7.14 (m, 1H), 6.95 (m, 1H), 4.19 (m, 4H). LRMS (APCI pos) m/e 324 (M+1).

reactant | 6-(4-(benzyloxy)-3-fluorophenyl)-1-phenyl-2,3-dihydroimidazo[1,2-a]pyrimidin-5(1H)-one | 0.20 mmol, 0.084 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C1=CN=C2N(C1=O)CCN2C2=CC=CC=C2)F | C25H20FN3O2
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 6-(3-fluoro-4-hydroxyphenyl)-1-phenyl-2,3-dihydroimidazo[1,2-a]pyrimidin-5(1H)-one | FC=1C=C(C=CC1O)C1=CN=C2N(C1=O)CCN2C2=CC=CC=C2 | C18H14FN3O2
